US07326791B2
4-(2-aminomethylpyrrolidin-1-ylcarbonyl)-N-[2-aminocarbonyl-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-chlorobenzamide
Prepared analogously to Example 17 from 4-[2-(N-tert-butoxycarbonylaminomethyl)pyrrolidine-1-carbonyl]-N-[2-aminocarbonyl-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-chlorobenzamide and trifluoroacetic acid. Yield: 59% (mixture of all four stereoisomers); Rf value: 0.23 (silica gel; dichloromethane/methanol=7:3); C23H24Cl2N6O3 (503.39); mass spectrum: (M+H)+=503/505/507 (chlorine isotope).

reactant | 4-[2-(N-tert-butoxycarbonylaminomethyl)pyrrolidine-1-carbonyl]-N-[2-aminocarbonyl-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-chlorobenzamide | C(C)(C)(C)OC(=O)NCC1N(CCC1)C(=O)C1=C(C=C(C(=O)NC(CC(=O)N)C2=NC3=C(N2)C=CC(=C3)Cl)C=C1)Cl | C28H32Cl2N6O5
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | chlorine | ClCl | Cl2
solvent | dichloromethane methanol | ClCCl.CO
product | 4-(2-aminomethylpyrrolidin-1-ylcarbonyl)-N-[2-aminocarbonyl-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-chlorobenzamide | Yield: 59% | NCC1N(CCC1)C(=O)C1=C(C=C(C(=O)NC(CC(=O)N)C2=NC3=C(N2)C=CC(=C3)Cl)C=C1)Cl | C23H24Cl2N6O3
